US05681838
Methyl (3-(2-(2-(4-nitroguanidinophenyl)acetylamino)ethyl)-2,5-dioxoimidazolidin-1-yl)phenylacetate
270 mg (1.13 mmol) of 4-nitroguanidinophenylacetic acid are dissolved in 50 ml of dimethylformamide, and 270 mg (1.25 mmol) of DCC and 150 mg (1.13 mmol) of HOBt are then added at 0° C. The mixture is stirred for 30 minutes and 370 mg (1.13 mmol) of methyl (3-(2-aminoethyl)-2,5-dioxoimidazolidin-1-yl)phenylacetate hydrochloride and 150 μl (1.13 mmol) of N-ethylmorpholine are then added. After stirring at room temperature for 20 h, the mixture is concentrated and ethyl acetate and methanol are added to the residue and the insoluble dicyclohexylurea is filtered off with suction. The filtrate is concentrated and methylene chloride is then added, and the solution is washed with sodium hydrogen carbonate solution and potassium hydrogen sulphate solution, dried and concentrated.

reactant | 4-nitroguanidinophenylacetic acid | 1.13 mmol, 270 mg | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)O)NC(=N)N | C9H10N4O4
reactant | DCC | 1.25 mmol, 270 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBt | 1.13 mmol, 150 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | methyl (3-(2-aminoethyl)-2,5-dioxoimidazolidin-1-yl)phenylacetate hydrochloride | 1.13 mmol, 370 mg | Cl.NCCN1C(N(C(C1)=O)C(C(=O)OC)C1=CC=CC=C1)=O
reactant | N-ethylmorpholine | 1.13 mmol, 150 μl | C(C)N1CCOCC1 | C6H13NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Methyl (3-(2-(2-(4-nitroguanidinophenyl)acetylamino)ethyl)-2,5-dioxoimidazolidin-1-yl)phenylacetate | [N+](=O)([O-])C1=CC(=C(C=C1)CC(=O)NCCN1C(N(C(C1)=O)C(C(=O)OC)C1=CC=CC=C1)=O)NC(=N)N | C23H25N7O7
